US07087626B2
3-Benzyloxy-4-methoxy-phenylamine
To a solution of 2-(benzyloxy)-1-methoxy-4-nitrobenzene (35.35 g, 136 mmol) in 1:1 ethyl acetate: ethanol (640 mL) at 80° C. is added tin(II) chloride hydrate in portions over 25 minutes. The mixture is heated at this temperature for 5 h. The mixture is allowed to cool to room temperature and stirred for 2 days. The mixture is poured into water (1 L) and neutralized with solid sodium bicarbonate. The mixture is extracted three times with ethyl acetate. The combined organic extracts are washed with water and brine, dried (sodium sulfate), filtered and evaporated to yield the title compound as a dark brown oil.

reactant | 2-(benzyloxy)-1-methoxy-4-nitrobenzene | 136 mmol, 35.35 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])OC | C14H13NO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tin(II) chloride hydrate | O.[Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 1 L | O | H2O
solvent | ethanol | 640 mL | C(C)O | C2H6O
product | 3-Benzyloxy-4-methoxy-phenylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)N | C14H15NO2
